US07341801B2
Preparation of methyl-3,4-ethylenedioxythiathiophene (2-methylthieno[3,4-b]-1,4-oxathiane)
11.68 g (67.8 mmol) of 3,4-diethoxythiophene, 12.5 g (135.6 mmol) of 1-mercapto-2-propanol and 1.29 g (6.8 mmol) of p-toluenesulphonic acid monohydrate were heated to reflux under an N2 atmosphere in 200 ml of toluene for 10 h. The further workup was as described in Example 1.

reactant | 3,4-diethoxythiophene | 67.8 mmol, 11.68 g | C(C)OC1=CSC=C1OCC | C8H12O2S
reactant | 1-mercapto-2-propanol | 135.6 mmol, 12.5 g | SCC(C)O | C3H8OS
reactant | p-toluenesulphonic acid monohydrate | 6.8 mmol, 1.29 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | methyl-3,4-ethylenedioxythiathiophene | CC1=C2C(SS1)OCCO2 | C6H8O2S2
